US04892875
A mixture of m-nitrobenzaldehyde, 2-[4-(2,3-dichlorophenyl)-1-piperazinyl]ethyl acetoacetate and methyl 3-aminocrotonate was worked up in isopropyl alcohol in the same manner as Example 1 to give 2-[4-(2,3-dichlorophenyl)-1-piperazinyl]ethyl methyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate as yellow crystals, m.p. 189°-190° C. Yield 75.7%.

reactant | m-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-[4-(2,3-dichlorophenyl)-1-piperazinyl]ethyl acetoacetate | C(CC(=O)C)(=O)OCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl | C16H20Cl2N2O3
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-[4-(2,3-dichlorophenyl)-1-piperazinyl]ethyl methyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | Yield 75.7% | CC=1NC(=C(C(C1C(=O)OCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C28H30Cl2N4O6
